
* cell sg13g2_DCNDiode
.SUBCKT sg13g2_DCNDiode
* net 1 guard
* net 3 anode
* net 4 cathode
* net 5 cathode
* device instance $1 r0 *1 16.53,7.38 dantenna
D$1 2 5 dantenna A=35.0028P P=58.08U m=1
* device instance $2 r0 *1 16.53,2.88 dantenna
D$2 2 4 dantenna A=35.0028P P=58.08U m=1
* device instance $3 r0 *1 16.53,5.13 ptap1
R$3 3 2 141.2964 ptap1 P=221.76
.ENDS sg13g2_DCNDiode
