
* cell SG13G2_DCNDIODE
* pin ANODE
* pin CATHODE
* pin GUARD
.SUBCKT SG13G2_DCNDIODE 1 2 3
* net 1 ANODE
* net 2 CATHODE
* net 3 GUARD
* net 4 SUB!
* device instance D1 r0 *1 0,0 DANTENNA
DD1 4 2 DANTENNA A=35.003P P=58.08U m=1
* device instance D0 r0 *1 0,0 DANTENNA
DD0 4 2 DANTENNA A=35.003P P=58.08U m=1
.ENDS SG13G2_DCNDIODE
