
* cell SG13G2_DCNDIODE
* pin ANODE
* pin CATHODE
* pin GUARD
.SUBCKT SG13G2_DCNDIODE 1 2 3
* net 1 ANODE
* net 2 CATHODE
* net 3 GUARD
* net 4 SUB!
* cell instance R0 r0 *1 0,0
XR0 1 4 PTAP1(A=0.141253N,P=47.54U)
* device instance D1 r0 *1 0,0 DANTENNA
DD1 4 2 DANTENNA A=35.003P P=58.08U m=1
* device instance D0 r0 *1 0,0 DANTENNA
DD0 4 2 DANTENNA A=35.003P P=58.08U m=1
.ENDS SG13G2_DCNDIODE

* cell PTAP1(A=0.141253N,P=47.54U)
* pin 1
* pin 2
.SUBCKT PTAP1(A=0.141253N,P=47.54U) 1 2
* net 1 1
* net 2 2
.ENDS PTAP1(A=0.141253N,P=47.54U)
